US08877801B2
To a solution of (E)-tert-butyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylate (27 mg, 0.06 mmol) in 4:1 MeOH:DCM (2.5 mL) was added palladium on carbon (10% wt., 0.59 mg, 5.53 mol). The reaction was stirred at room temperature under a hydrogen balloon for 12 h after which the reaction was purged with nitrogen and filtered through Celite™. The remaining palldium was washed with DCM (30 mL) and the resulting solution was concentrated in vacuo to afford tert-butyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)propanoate (27 mg, 0.06 mmol, 100% yield) which was used without further purification. LC/MS (m/z, MH+): 491.3.

reactant | (E)-tert-butyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylate | 0.06 mmol, 27 mg | COC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)OC(C)(C)C)C2=CC=C(C=C2)OC)C1 | C29H28O5S
reactant | MeOH | CO | CH4O
catalyst | palladium on carbon | 5.53 mol, 0.59 mg | [Pd] | Pd
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)propanoate | 0.06 mmol, 27 mg, 100% yield | COC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)CCC(=O)OC(C)(C)C)C2=CC=C(C=C2)OC)C1 | C29H30O5S
